US05051422
N-(3-Bromo-5-methoxyphenyl)-2-chloroacetamide
In a manner similar to Preparation 3, react 3-bromo-5-methoxybenzeneamine with chloroacetyl chloride to obtain the title compound.

reactant | 3-bromo-5-methoxybenzeneamine | BrC=1C=C(C=C(C1)OC)N | C7H8BrNO
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | N-(3-Bromo-5-methoxyphenyl)-2-chloroacetamide | BrC=1C=C(C=C(C1)OC)NC(CCl)=O | C9H9BrClNO2
